### PR TITLE
Observed properties

### PR DESCRIPTION
**Pull request by traiansf**
- properties of (`Composite`)`HasBeenObserved`
- properties of selecting from lists
- Relaxed `ObservedBeforeSend`

### CODE REVIEW

File: theories/VLSM/Core/MessageDependencies.v [hunk 1]
```diff
@@ -1052,10 +1120,98 @@ Proof.
...
+  - intros [i Hobsi].
+    apply elem_of_list_In, in_concat.
+    exists (sent_messages_fn (IM i) (s i)); split; [| by apply elem_of_list_In].
+    by apply in_map_iff; eexists; (split; [| apply elem_of_list_In, elem_of_enum]).
+  - intros Hi.
+    apply elem_of_list_In, in_concat in Hi as (li & Hi & Hm).
+    apply in_map_iff in Hi as (i & <- & _).
+    apply elem_of_list_In in Hm.
+    by exists i.
+Qed.
```
Comment (wkolowski) [inline theories/VLSM/Core/MessageDependencies.v:1185]: These two proofs are very similar. Maybe you should try to refactor somehow? Maybe you can prove `composite_has_been_directly_observed_iff_fn` first and derive these two from it?

File: theories/VLSM/Lib/ListExtras.v [hunk 2]
```diff
@@ -2158,3 +2166,79 @@ Proof.
...
+  by destruct_dec_sig di i Hi Heq; subst; apply Hsub.
+Qed.
+
+Definition element_of_filter `{EqDecision A}
+  [P : A -> Prop] `{∀ x, Decision (P x)} [l : list A]
+  : dsig (fun i => i ∈ filter P l) -> dsig (fun i => i ∈ l) :=
+  element_of_subseteq (list_filter_subseteq P l).
+
+Lemma list_difference_singleton_not_in `{EqDecision A} :
+  forall (l : list A) (a : A), a ∉ l →
```
Comment (wkolowski) [inline theories/VLSM/Lib/ListExtras.v:2195]: I am somewhat skeptical of mixing parameters/arguments (things before the `:`) and `forall`s in `Lemma`s.

File: theories/VLSM/Lib/ListExtras.v [hunk 3]
```diff
@@ -2158,3 +2166,79 @@ Proof.
...
+    length (list_difference l [a]) < length l.
+Proof.
+  intros l a; induction l; [inversion 1 |].
+  cbn; case_decide as Ha0; rewrite elem_of_list_singleton in Ha0.
+  - subst; intros _.
+    destruct (decide (a ∈ l)).
+    + etransitivity; [by apply IHl | lia].
+    + by rewrite list_difference_singleton_not_in; [lia |].
+  - inversion 1; [done |]; subst; cbn.
+    by spec IHl; [| lia].
```
Comment (wkolowski) [inline theories/VLSM/Lib/ListExtras.v:2215]:
```suggestion
  - by inversion 1; subst; [done |]; cbn; spec IHl; [| lia].
```

**Review by wkolowski — APPROVED** [review]
Looks ok. I will commit my suggestions.

**Comment by wkolowski** [comment]
@traiansf I had to rebase because during my code review you added a commit, hopefully I didn't destroy too much of your work...

File: theories/VLSM/Core/MessageDependencies.v [hunk 4]
```diff
@@ -257,35 +257,68 @@ Inductive HasBeenObserved (s : vstate X) (m : message) : Prop :=
       msg_dep_happens_before message_dependencies m m' ->
       HasBeenObserved s m.
 
+Lemma transition_preserves_HasBeenObserved :
+  forall l s im s' om, input_valid_transition R l (s,im) (s',om) ->
+  forall msg, HasBeenObserved s msg -> HasBeenObserved s' msg.
```
[the remark this answers is not in the document]
Comment (traiansf) [reply theories/VLSM/Core/MessageDependencies.v]: I'll try to keep that in mind.

File: theories/VLSM/Core/MessageDependencies.v [hunk 5]
```diff
@@ -257,35 +257,68 @@ Inductive HasBeenObserved (s : vstate X) (m : message) : Prop :=
...
+
+Lemma HasBeenObserved_step_update :
+  forall l s im s' om, input_valid_transition R l (s,im) (s',om) ->
+  forall msg,
+    HasBeenObserved s' msg
+      <->
+    (exists m, (im = Some m \/ om = Some m) /\
+      (msg = m \/ msg_dep_happens_before message_dependencies msg m))
+        \/
+      HasBeenObserved s msg.
```
[the remark this answers is not in the document]
Comment (palmskog) [reply theories/VLSM/Core/MessageDependencies.v:277]: I think it's a good convention to *always* have parentheses around exists statements and similar. Otherwise, people may have to check with Coq to understand the scope of some constructor/operator.

File: theories/VLSM/Core/MessageDependencies.v [hunk 6]
```diff
@@ -257,35 +257,68 @@ Inductive HasBeenObserved (s : vstate X) (m : message) : Prop :=
...
+    + by right; econstructor 2.
+  - intros [(m & Hnow & [<- | Hdep]) | Hbefore].
+    + by constructor; eapply has_been_directly_observed_step_update; [| left].
+    + by econstructor 2; [| done]; eapply has_been_directly_observed_step_update; [| left].
+    + by eapply transition_preserves_HasBeenObserved.
+Qed.
+
 (**
-A relation capturing the messages <<m1>> directly observed at the moment of
+A relation capturing the messages <<m1>> observed at the moment of
```
[the remark this answers is not in the document]
Comment (palmskog) [reply theories/VLSM/Core/MessageDependencies.v:294]: Maybe: "A relation describing the messages [...]"

File: theories/VLSM/Core/MessageDependencies.v [hunk 7]
```diff
@@ -413,25 +446,25 @@ End sec_message_dependencies_equivocation.
 message_dependencies function, [HasBeenSentCapability] and
 [HasBeenReceivedCapability]) can be inferred from that.
 *)
-Global Hint Mode MessageDependencies - - ! - - : typeclass_instances.
+Global Hint Mode MessageDependencies - ! - - - : typeclass_instances.
```
[the remark this answers is not in the document]
Comment (palmskog) [reply theories/VLSM/Core/MessageDependencies.v:449]: @wkolowski we always want a `Global Hint Mode` for type classes. Otherwise, all their arguments are both input and output, which can easily lead to divergence. Why `Global`? Because otherwise, people will have to explicitly import the file with the `Class` definition just to get non-divergence, which is not very nice.

File: theories/VLSM/Lib/ListExtras.v [hunk 8]
```diff
@@ -947,6 +947,14 @@ Proof.
     lia.
 Qed.
 
+Lemma list_lookup_lt [A] (is : list A) :
```
Comment (palmskog) [inline theories/VLSM/Lib/ListExtras.v:950]: Might be better to put this (and stuff below) in StdppExtras, since it's related to Stdpp association lists / maps.

File: theories/VLSM/Core/MessageDependencies.v [hunk 9]
```diff
@@ -257,35 +257,68 @@ Inductive HasBeenObserved (s : vstate X) (m : message) : Prop :=
...
 more than its required depdendencies.
 *)
-Record DirectlyObservedBeforeSendTransition
+Record ObservedBeforeSendTransition
   (s : vstate X) (item : vtransition_item X) (m1 m2 : message) : Prop :=
   {
     dobst_transition : input_valid_transition_item R s item;
     dobst_output_m2 : output item = Some m2;
-    dobst_observed_m1 : has_been_directly_observed X s m1;
+    dobst_observed_m1 : HasBeenObserved s m1;
```
[the remark this answers is not in the document]
Comment (traiansf) [reply theories/VLSM/Core/MessageDependencies.v:307]: It's more subtle. I originally thought that it's enough to use `has_been_direclty_observed` and to close this under transitivity, but it turns out it's better to use the message-dependencies based HasBeenObserved instead.

**Review by palmskog — APPROVED** [review]
Looks like reasonable changes, but like Wojciech I don't really follow the change in terminology from "directly observable" to just "observable" in some places. Maybe worth making some comment about name changes in the PR so we remember. Can be just a regular comment on GitHub in #61.

File: theories/VLSM/Core/MessageDependencies.v [hunk 10]
```diff
@@ -561,28 +594,63 @@ Proof.
...
+Record CompositeObservedBeforeSendTransition
   (s : composite_state IM) (item : composite_transition_item IM) (m1 m2 : message)
   : Prop :=
   {
     cdobst_transition : input_valid_transition_item RFree s item;
     cdobst_output_m2 : output item = Some m2;
     cdobst_observed_m1 : 
-      has_been_directly_observed (IM (projT1 (l item))) (s (projT1 (l item))) m1;
+      HasBeenObserved (IM (projT1 (l item))) message_dependencies (s (projT1 (l item))) m1;
   }.
```
[the remark this answers is not in the document]
Comment (traiansf) [reply theories/VLSM/Core/MessageDependencies.v:643]: All of the other Records in this file were indented like that. But I decided to take your advice and unindent all of them

File: theories/VLSM/Lib/ListExtras.v (hunk 2 above)
Comment (palmskog) [reply theories/VLSM/Lib/ListExtras.v]: Putting typeclass parameters of lemmas before the `:` is a long-standing convention in the Stdpp library. At some point we may consider skipping the leading `forall`s in lemmas and just putting "all" the parameters (here, `l : list A` and `a : A`) before the `:`. This is done in both MathComp and Stdpp.

Comment (wkolowski) [reply theories/VLSM/Lib/ListExtras.v]: @palmskog This saves some `intros` and repeating the arguments names in the `intros`, but then when you want to do `induction` it forces you to use `revert`. Also, `intros [...]` is a pretty light way of replacing `destruct`... I'm not sure if this is the best convention.

File: theories/VLSM/Core/MessageDependencies.v (hunk 1 above)
Comment (traiansf) [reply theories/VLSM/Core/MessageDependencies.v:1183]: Actually, I think there was too much ambition from my part so I decided to completely rewrite ComputableMessages based on the `oracle_stepwise_props` which allowed some of the intermediary result to be prove generically. I'll commit the results soon.

File: theories/VLSM/Core/Equivocation.v [hunk 11]
```diff
@@ -1583,6 +1374,166 @@ Global Program Instance HasBeenDirectlyObservedCapability_from_sent_received
...
+  sent_messages_fn : vstate vlsm -> list message;
+  csm_computable_oracle :
+    ComputableMessagesOracle vlsm sent_messages_fn (field_selector output);
+}.
+
+Class ComputableReceivedMessages `(vlsm : VLSM message) := {
+  received_messages_fn : vstate vlsm -> list message;
+  crm_computable_oracle :
+    ComputableMessagesOracle vlsm received_messages_fn (field_selector input);
+}.
```
Comment (palmskog) [inline theories/VLSM/Core/Equivocation.v:1395]: Do we have some `Global Hint Mode` for these classes somewhere? If not, then might be good to declare the usual default.

File: theories/VLSM/Core/Equivocation.v [hunk 12]
```diff
@@ -1583,6 +1374,166 @@ Global Program Instance HasBeenDirectlyObservedCapability_from_sent_received
...
+
+Section sec_computable_sent_received_observed.
+
```
Comment (palmskog) [inline theories/VLSM/Core/Equivocation.v:1398]: Always nice if there could be some summary coqdoc comment for this section, along the lines of (but less cliche than):
```coq
(** 
  In this section, we prove properties about computable sent and
  received messages that are observed.
*)
```
Same for sections below. And maybe consider adding some subsection header `(** ** header goes here *)`.

File: theories/VLSM/Core/Equivocation.v [hunk 13]
```diff
@@ -2507,6 +2458,99 @@ End Composite.
       by destruct item.
   Qed.
 
+Section sec_CompositeComputableMessages.
+
+Context
+  `{EqDecision message}
+  `{finite.Finite index}
+  (IM : index -> VLSM message)
+  (indexed_oracle_fn : forall i, vstate (IM i) -> set message)
```
Comment (palmskog) [inline theories/VLSM/Core/Equivocation.v:2467]: I personally think the `_fn` prefix is not very informative. Since you're returning a set here, why not use the `_set` prefix instead, e.g., `indexed_oracle_state_set`?

**Review by palmskog — APPROVED** [review]
These are pretty big changes that may have warranted a separate PR, but they look reasonable to me. We should probably think more about how we organize our utility lemmas so there are clear heuristics for what should go in ListExtras vs. StdppExtras.

File: theories/VLSM/Core/MessageDependencies.v [hunk 14]
```diff
@@ -1052,10 +1116,42 @@ Proof.
...
+                      (composite_observed_messages_fn IM s))).
+  - left.
+    apply Exists_exists in e as (m' & Hobsm' & Hmm').
+    constructor 2 with m';
+      [by apply composite_has_been_directly_observed_iff_fn |].
+    by apply full_message_dependencies_happens_before.
+  - right; inversion 1; [by contradict n |].
+    contradict n0; apply Exists_exists; exists m'; split;
+      [by apply composite_has_been_directly_observed_iff_fn |].
+    by apply full_message_dependencies_happens_before.
```
Comment (wkolowski) [inline theories/VLSM/Core/MessageDependencies.v]:
```suggestion
    constructor 2 with m'.
    + by apply composite_has_been_directly_observed_iff_fn.
    + by apply full_message_dependencies_happens_before.
  - right; inversion 1; [by contradict n |].
    contradict n0; apply Exists_exists; exists m'; split.
    + by apply composite_has_been_directly_observed_iff_fn.
    + by apply full_message_dependencies_happens_before.
```

File: theories/VLSM/Lib/FinExtras.v [hunk 15]
```diff
@@ -20,12 +20,12 @@ Qed.
...
-  - simpl.
-    destruct (decide (n <= i)).
-    + assert (i = n) by lia. subst i.  left.
-    + right. apply IHn. lia.
+  induction n; intro i; split; intro Hi; [inversion Hi | inversion Hi |..].
+  - destruct (decide (n <= i)).
+    + by replace n with i by lia; left.
+    + right; apply IHn; lia.
+  - inversion Hi; subst; [lia |].
+    transitivity n; [by apply IHn | lia].
```
Comment (wkolowski) [inline theories/VLSM/Lib/FinExtras.v]:
```suggestion
  induction n; split; inversion 1; subst; cbn; [left | | lia |].
  - by right; apply IHn.
  - by transitivity n; [apply IHn | lia].
```
This can be greatly simplified!

File: theories/VLSM/Lib/StdppExtras.v [hunk 16]
```diff
@@ -239,3 +239,90 @@ Proof.
...
+  {A : Type}
+  (s : list A)
+  (n : nat)
+  (i : nat)
+  (Hi : n <= i)
+  : list_suffix s n !! (i - n) = s !! i.
+Proof.
+  revert s n Hi.
+  induction i; intros [|a s] [|n] Hi; try done; [lia |].
+  simpl. apply IHi. lia.
```
Comment (wkolowski) [inline theories/VLSM/Lib/StdppExtras.v]:
```suggestion
  revert s n Hi; induction i; intros [| a s] [| n] Hi; cbn; try done; [| apply IHi]; lia.
```
This proof is a bit of a mess anyway, so why not convert it into a one-liner?

File: theories/VLSM/Lib/StdppExtras.v [hunk 17]
```diff
@@ -239,3 +239,90 @@ Proof.
...
+    destruct l0 as [|_b l0]; inversion Hb; subst _b; clear Hb.
+    by apply fsHere in Hall.
+  - apply
+      (ForAllSuffix_induction
+        (fun l => match l with | a :: b :: _ => R a b | _ => True end)
+        (fun l => (∀ (n : nat) (a b : A),
+          l !! n = Some a → l !! (S n) = Some b → R a b))); intros.
+    + destruct l0 as [| a [| b l0']]; [done | done |].
+      by apply (H 0).
+    + by apply (H (S n)).
```
Comment (wkolowski) [inline theories/VLSM/Lib/StdppExtras.v]:
```suggestion
  split.
  - induction 1; cbn; [inversion 2 |].
    destruct n as [| n']; cbn.
    + by destruct l; do 2 inversion 1; subst.
    + by intros; eapply IHForAllSuffix.
  - induction l as [| a [| b l']]; cbn.
    + by constructor.
    + by repeat constructor.
    + constructor.
      * by apply (H 0).
      * by apply IHl; intro n; apply (H (S n)).
```
I'm sorry but your proof looks really bad to me. Lots of `specialize`s and other forward-y things in the first case, then manual application of some suspicious induction principle in the second case... why not just use normal induction in both cases?

File: theories/VLSM/Lib/StdppExtras.v [hunk 18]
```diff
@@ -239,3 +239,90 @@ Proof.
...
+  intros m n a b Hlt.
+  apply le_plus_dec in Hlt as [k Hlt].
+  subst n. revert a b. induction k; simpl; [apply Hall|].
+  intros a b Ha Hb.
+  assert (Hlt : k + S m < length l).
+  { apply lookup_lt_Some in Hb. lia. }
+  apply lookup_lt_is_Some in Hlt as [c Hc].
+  specialize (Hall _ _ _ Hc Hb).
+  specialize (IHk  _ _ Ha Hc).
+  by transitivity c.
```
Comment (wkolowski) [inline theories/VLSM/Lib/StdppExtras.v]:
```suggestion
  rewrite ForAllSuffix2_lookup.
  split; intro Hall; [| by intros n a b; apply Hall; lia].
  intros m n a b Hlt.
  apply le_plus_dec in Hlt as [k Hlt]; subst n.
  revert a b; induction k; cbn; [apply Hall |].
  intros a b Ha Hb.
  assert (Hlt : k + S m < length l) by (apply lookup_lt_Some in Hb; lia).
  apply lookup_lt_is_Some in Hlt as [c Hc].
  by transitivity c; [apply IHk | eapply Hall].
```
More backward, use `by` for `assert`.

**Review by wkolowski — APPROVED** [review]
Looks good enough, I will commit my suggestions.
